* CircuitVision smps (topology + assigned values)
* 0=GND(electrical, raw GND nets collapsed)
D0 N103 N175 DMOD  ; diode
R1 0 N384 1k  ; resistor
R2 0 0 1k  ; resistor
D3 0 N94 DMOD  ; diode
R4 0 0 1k  ; resistor
R5 N325 N348 1k  ; resistor
R6 0 0 1k  ; resistor
D7 N273 0 DMOD  ; diode
R8 N113 0 1k  ; resistor
R9 N348 N468 1k  ; resistor
C10 0 0 1u  ; capacitor
R11 N113 0 1k  ; resistor
C12 0 0 1u  ; capacitor
Q13 N94 N211 0 QMODN  ; npn
R14 N422 N470 1k  ; resistor
R15 0 0 1k  ; resistor
R16 N107 N147 1k  ; resistor
C17 N91 N89 1u  ; capacitor
D18 N94 0 DMOD  ; diode
R19 N89 N94 1k  ; resistor
R20 N147 0 1k  ; resistor
R21 N495 0 1k  ; resistor
R22 N348 0 1k  ; resistor
R23 N348 N414 1k  ; resistor
C24 N550 N348 1u  ; capacitor
R25 N384 0 1k  ; resistor
C26 0 N528 1u  ; capacitor
R27 N148 N75 1k  ; resistor
R28 N208 0 1k  ; resistor
R29 N147 0 1k  ; resistor
R30 N538 N550 1k  ; resistor
D31 N175 0 DMOD  ; diode
D32 N273 0 DMOD  ; diode
C33 N348 0 1u  ; capacitor
C35 N469 0 1u  ; capacitor
Q36 N469 N470 0 QMODN  ; npn
R37 N423 N469 1k  ; resistor
C38 0 0 1u  ; capacitor
R39 N92 N89 1k  ; resistor
C40 N414 N415 1u  ; capacitor
R41 N94 N208 1k  ; resistor
D42 0 0 DMOD  ; diode
D43 N483 N469 DMOD  ; diode
Q44 0 N93 N94 QMODN  ; npn
D45 N113 N75 DMOD  ; diode
R46 0 N89 1k  ; resistor
C47 0 0 1u  ; capacitor
C48 N73 N74 1u  ; capacitor
C49 N113 N148 1u  ; capacitor
D50 N175 N206 DMOD  ; diode
R51 N348 N113 1k  ; resistor
R52 N89 N93 1k  ; resistor
C54 0 N69 1u  ; capacitor
C56 0 N384 1u  ; capacitor
C57 N384 0 1u  ; capacitor
R58 N414 N415 1k  ; resistor
R61 0 N89 1k  ; resistor
R62 N470 0 1k  ; resistor
C63 0 0 1u  ; capacitor
R65 N428 N348 1k  ; resistor
D66 N73 N75 DMOD  ; diode
C67 0 N208 1u  ; capacitor
R68 0 0 1k  ; resistor
R69 N74 N75 1k  ; resistor
R70 N94 N208 1k  ; resistor
R72 N468 0 1k  ; resistor
D74 N488 N489 DMOD  ; diode
R75 N210 N208 1k  ; resistor
D78 N210 N210 DMOD  ; diode
L79 0 N95 10u Rser=10m  ; inductor
R81 N208 N211 1k  ; resistor
R84 N69 N127 1k  ; resistor
D85 N91 N92 DMOD  ; diode
S86 0 N351 0 0 SMOD  ; switch
Q88 N175 0 N206 QMODP  ; pnp
L90 N91 N94 10u Rser=10m  ; inductor
L92 0 N95 10u Rser=10m  ; inductor
R93 N103 N149 1k  ; resistor
C94 0 0 1u  ; capacitor
L97 N149 N103 10u Rser=10m  ; inductor
C98 N175 N250 1u  ; capacitor
D99 N489 N490 DMOD  ; diode
R100 N528 N348 1k  ; resistor
Q101 N103 N147 N175 QMODN  ; npn
R102 N490 N348 1k  ; resistor
S104 N346 N347 0 0 SMOD  ; switch
R105 N384 N487 1k  ; resistor
L108 N261 N75 10u Rser=10m  ; inductor
C113 0 0 1u  ; capacitor
L114a N94 N103 10u Rser=10m
L114b N149 N149 10u Rser=10m
K114 L114a L114b 1
L115a N101 FLT_212 10u Rser=10m
L115b N149 N149 10u Rser=10m
K115 L115a L115b 1
C116 0 0 1u  ; capacitor
R117 N107 0 1k  ; antenna as-load
L122a N94 N103 10u Rser=10m
L122b N210 N217 10u Rser=10m
K122 L122a L122b 1
D123 N210 N210 DMOD  ; diode
C124 N175 N250 1u  ; capacitor
D125 N103 N175 DMOD  ; diode
L126 N217 0 10u Rser=10m  ; inductor
D129 0 0 DMOD  ; diode.light_emitting
C130 0 0 1u  ; capacitor
R131 N422 N470 1k  ; resistor
C132 N273 N113 1u  ; capacitor
R136 0 0 1k  ; resistor
C142 0 0 1u  ; capacitor.polarized
V143 0 0 DC 5  ; voltage.dc
C144 0 0 1u  ; capacitor
L148 0 N94 10u Rser=10m  ; inductor
R149 N314 N325 1k  ; resistor
D152 0 0 DMOD  ; diode
D154 0 N348 DMOD  ; diode
D155 N487 N488 DMOD  ; diode
C159 N94 N127 1u  ; capacitor
R160 N431 N423 1k  ; resistor
L162 0 0 10u Rser=10m  ; inductor
D165 N73 N75 DMOD  ; diode
R166 N210 0 1k  ; resistor
X167 N147 0 N489 N487 N495 N490 0 0 0 0 N348 N348 N348 ICSTUB  ; integrated_circuit pins=L0,L1,L10,L8,L9,R11,R12,R2,R3,R4,R5,R6,R7 (structural)
* --- models ---
.model DMOD D
.model QMODN NPN
.model QMODP PNP
.model MMODN NMOS
.model MMODP PMOS
.model SMOD SW()
.subckt ICSTUB N147 0 N489 N487 N495 N490 0 0 0 0 N348 N348 N348
* unmodeled KA7500-class footprint: pins float, OP only
.ends ICSTUB
.op
.end
