* CircuitVision wien_bridge (topology + assigned values)
* 0=GND(electrical, raw GND nets collapsed)
R1 N5 N11 1k  ; resistor
R3 N20 0 1k  ; resistor
R4 N5 N10 1k  ; resistor
R5 N10 0 1k  ; resistor
C7 N11 N2 1u  ; capacitor
Q10 N11 N10 N20 QMODN  ; npn
R11 N1 N18 1k  ; resistor
C12 N12 N10 1u  ; capacitor
C13 N1 N2 1u  ; capacitor
Q14 N12 N14 N18 QMODN  ; npn
R15 N5 N12 1k  ; resistor
R16 N21 N14 1k  ; resistor
R17 N1 N14 1k  ; resistor
R18 N5 N14 1k  ; resistor
C19 N14 N21 1u  ; capacitor
C20 N14 N14 1u  ; capacitor
L21 N18 N21 10u Rser=10m  ; inductor
R22 N5 N12 1k  ; resistor
* --- models ---
.model DMOD D
.model QMODN NPN
.model QMODP PNP
.model MMODN NMOS
.model MMODP PMOS
.model SMOD SW()
.op
.end
